US08497264B2
A 3-neck 12 L flask equipped with an overhead stirrer, thermometer, condenser and nitrogen inlet was charged with NaH (186.1 g, 4.653 mol) and DMF (1500 mL). The slurry was cooled to 0° C. and a solution of 4-iodophenol (488.6 g, 2.221 mol) in DMF (1500 mL) and added. The temperature of the reaction mixture was maintained below 25-30° C. during this addition. After complete addition, the cooling bath was promptly removed and the mixture continued to stir at RT for 1 h. 5-Bromo-2-chloronicotinic acid (500 g, 2.115 mol) was then added to the slurry portion wise. The reaction mixture was heated to 115° C. overnight. The dark brown reaction mixture was cooled to 20° C. and diluted with water (2 L). The reaction mixture was acidified using HOAc (845 ml). The black homogenous solution (pH=5) was allowed to stir for 1 h at RT and poured slowly onto ice-water (20 L). The slurry was filtered at RT, washed with water (2×2 L) and dried in air to give 765 g of 5-Bromo-2-(4-iodophenoxy)-nicotinic acid as light orange solid.

reactant | NaH | 4.653 mol, 186.1 g | [H-].[Na+]
reactant | 4-iodophenol | 2.221 mol, 488.6 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 5-Bromo-2-chloronicotinic acid | 2.115 mol, 500 g | BrC=1C=NC(=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | HOAc | 845 ml | CC(=O)O | C2H4O2
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
solvent | water | 2 L | O | H2O
solvent | DMF | 1500 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(4-iodophenoxy)-nicotinic acid | 765 g | BrC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)I | C12H7BrINO3
